US06380256B1
4-Bromo-3-isopropyl-phenol (Intermediate 144)
To a solution of 1-bromo-2-isopropyl-4-methoxy-benzene (Intermediate 14:3, 2.20 g, 9.60 mmols) in 50 mL CH2Cl2 at −78° C. was added BBr3 (4.81 g, 19.2 mmols; 19.2 mL of a 1M solution in CH2Cl2). After stirring for 3 hour, at −78° C. The solution was warmed to 0° C. for 3 hours and then at 25° C. for 1 hour before being quenched with H2O. The mixture was diluted with Et2O and washed with H2O and saturated aqueous NaCl, dried (Na2SO4) and concentrated under reduced pressure. Column chromatography (2.5-10% EtOAc-hexanes) afforded the title compound as a colorless oil.

reactant | 1-bromo-2-isopropyl-4-methoxy-benzene | 9.60 mmols, 2.20 g | BrC1=C(C=C(C=C1)OC)C(C)C | C10H13BrO
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-3-isopropyl-phenol | BrC1=C(C=C(C=C1)O)C(C)C | C9H11BrO
